US07576109B2
To a solution of lithium aluminium hydride (1.2 g) in dry tetrahydrofuran (100 mL) add 4-butyl-2-(4-trifluormethyl-phenyl)-thiazol-5-carboxylic acid methyl ester (5.3 g, 15.4 mmol) dissolved in tetrahydrofuran (100 mL). Stir the reaction mixture at room temperature over a period of one hour. Add a saturated aqueous solution of ammonium chloride (50 mL) and then a 1 molar aqueous solution of hydrochloric acid (50 mL). Extract the reaction mixture five times with portions of 60 ml of ethyl acetate. Dry the combined extracts with MgSO4 and remove the solvent under reduced pressure to provide [4-butyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-yl]-methanol (4.6 g) as a yellow oil, which solidified upon standing at room temperature.

reactant | lithium aluminium hydride | 1.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-butyl-2-(4-trifluormethyl-phenyl)-thiazol-5-carboxylic acid methyl ester | 15.4 mmol, 5.3 g | COC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CCCC | C16H16F3NO2S
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
reactant | hydrochloric acid | 50 mL | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | [4-butyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-yl]-methanol | 4.6 g | C(CCC)C=1N=C(SC1CO)C1=CC=C(C=C1)C(F)(F)F | C15H16F3NOS
